US07179823B1
A mixture of 2-(5-chloroimidazo[1,2-a]pyridin-2-ylmethoxy)-4-pyridylmethanol (2.90 g) and thionyl chloride (10 ml) was stirred at room temperature for 1 hour. After the reaction mixture was concentrated, saturated aqueous sodium bicarbonate solution was added to the residue, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to obtain 5-chloro-2-(4-chloromethyl-2-pyridyloxymethyl)imidazo[1,2-a]pyridine (2.63 g, yield 85%) as colorless crystals from the fraction eluted with tetrahydrofuran. This was recrystallized from tetrahydrofuran-hexane. Melting point: 118–119° C.

reactant | 2-(5-chloroimidazo[1,2-a]pyridin-2-ylmethoxy)-4-pyridylmethanol | 2.90 g | ClC1=CC=CC=2N1C=C(N2)COC2=NC=CC(=C2)CO | C14H12ClN3O2
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-chloro-2-(4-chloromethyl-2-pyridyloxymethyl)imidazo[1,2-a]pyridine | 2.63 g, yield 85% | ClC1=CC=CC=2N1C=C(N2)COC2=NC=CC(=C2)CCl | C14H11Cl2N3O
